US07041681B2
3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline
3,4-Dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tertbutyl ester (2.77 g, 10 mmol) and 2-amino-1phenyl-ethanone (1.71 g, 10 mmol), and HOBT (1-hydroxybenzo-triazole) (2.70 g, 20 mmol) were dissolved in dichloromethane (100 ml). The solution was cooled to 0° C. and then (4-dimethylamino-butyl)-ethyl-carbodiimide (2.29 g, 12 mmol) was added followed by NMM (N-methyl-morpholine) (1.31 g, 13 mmol). The reaction mixture was then warmed to room temperature. After 72 hours the reaction mixture was extracted with water, and the organic phase extracted consecutively with saturated NaHCO3, 2N citric acid and NaHCO3, dried over MgSO4, filtered and concentrated to yield the title product as a yellow foam. Liquid chromatography (LC) indicated the compound was 86% pure (214 nm), and was used without further purification.

reactant | 3,4-Dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tertbutyl ester | 10 mmol, 2.77 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(=O)O | C15H19NO4
reactant | 2-amino-1phenyl-ethanone | 10 mmol, 1.71 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | HOBT | 20 mmol, 2.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (4-dimethylamino-butyl)-ethyl-carbodiimide | 12 mmol, 2.29 g | CN(CCCCN=C=NCC)C | C9H19N3
reactant | NMM | 13 mmol, 1.31 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline | C1(=CC=CC=C1)C=1N=C(NC1)C1NCC2=CC=CC=C2C1 | C18H17N3
